US06969711B2
A solution of 4-(cyanomethyl)piperazine-1-ethanol (1.69 g, 10 mmol) in THF (20 ml) was added to a solution of lithium aluminum hydride in THF (20 ml, 20 mmol) in an argon stream with ice cooling, the mixture was stirred at room temperature for 5 minutes and heated to reflux for 90 minutes. The reaction solution was allowed to cool, diluted with ethanol with ice cooling and stirred at room temperature for 15 minutes after adding an aqueous 1N sodium hydroxide solution thereto. This was filtered off through celite and the filtrate was concentrated in vacuo to provide 4-(aminoethyl)piperazine-1-ethanol.

reactant | 4-(cyanomethyl)piperazine-1-ethanol | 10 mmol, 1.69 g | C(#N)CN1CCN(CC1)CCO | C8H15N3O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | THF | 20 mmol, 20 ml | C1CCOC1 | C4H8O
product | 4-(aminoethyl)piperazine-1-ethanol | NCCN1CCN(CC1)CCO | C8H19N3O
